US04540699
Ethyl β-(2-methoxy-4-pyridyl)propionate (89.1 g) and ethanolic HCl (200 ml) were stirred under reflux in ethanol (900 ml) for 48 hours. The reaction mixture was evaporated under reduced pressure to give an oily residue which was dissolved in water (300 ml). This solution was taken to pH9 with potassium carbonate solution and extracted into ethyl acetate (6×250 ml). The combined ethyl acetate extracts were washed with water, dried over MgSO4 and evaporated under reduced pressure to afford an oil which solidified to give white crystals of ethyl β-(2-hydroxy-4-pyridyl)propionate which were washed with petroleum ether (40°-60°) and dried in vacuo (59.58 g), m.p. 73°-76.5° C.

reactant | Ethyl β-(2-methoxy-4-pyridyl)propionate | 89.1 g | COC1=NC=CC(=C1)CCC(=O)OCC | C11H15NO3
reactant | HCl | 200 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 900 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | ethyl β-(2-hydroxy-4-pyridyl)propionate | OC1=NC=CC(=C1)CCC(=O)OCC | C10H13NO3
